US07812043B2
1-Methyl-1H-indole-3-carboxylic acid thiazol-2-ylamide
1-Methyl-1H-indole-3-carboxylic acid and 2-aminothiazole was coupled and purified according to the conditions described in General Procedure (B), Step C).

reactant | 1-Methyl-1H-indole-3-carboxylic acid | CN1C=C(C2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
product | 1-Methyl-1H-indole-3-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)C1=CN(C2=CC=CC=C12)C | C13H11N3OS
